US04785116
A mixture of 10.1 parts of 5-aminoisothiazole-3,4-dicarboximide and 70 parts of concentrated aqueous ammonia solution is stirred for 2 hours at room temperature, and the colorless precipitate is then filtered off under suction, washed with water and dried to give 9.3 parts (83% of theory) of 5-aminoisothiazole-3,4-dicarboxamide.

reactant | 5-aminoisothiazole-3,4-dicarboximide | NC1=C2C(=NS1)C(=O)NC2=O | C5H3N3O2S
reactant | ammonia | N | H3N
product | 5-aminoisothiazole-3,4-dicarboxamide | 83% | NC1=C(C(=NS1)C(=O)N)C(=O)N | C5H6N4O2S
